US07592358B2
48.7d. 2-(4-chloro-2-methylphenyl)-5-ethynylpyrazine
The product was prepared analogously to Example 1.1c from 700 mg (2.33 mmol) of 2-(4-chloro-2-methylphenyl)-5-trimethylsilanylethynylpyrazine (40 minutes at RT, DCM as solvent). Yield: 200 mg (38% of theoretical); C13H9ClN2 (M=228.677); calc.: molpeak (M+H)+:229/231 (Cl); found: molpeak (M+H)+:229/231 (Cl); Rf value: 0.2 (silica gel, PE/EtOAc 9:1).

reactant | 2-(4-chloro-2-methylphenyl)-5-trimethylsilanylethynylpyrazine | 2.33 mmol, 700 mg | ClC1=CC(=C(C=C1)C1=NC=C(N=C1)C#C[Si](C)(C)C)C | C16H17ClN2Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-chloro-2-methylphenyl)-5-ethynylpyrazine | ClC1=CC(=C(C=C1)C1=NC=C(N=C1)C#C)C | C13H9ClN2
